US05914339
5-{2-[2-(3-Chloro-phenyl)-2-hydroxy-ethylamino]-propyl}-benzo[1,3]dioxole-2,2-dicarboxylic acid bis-(4-methyl-pentyl) ester
The title compound was prepared from 5-{2-[2-(3-chloro-phenyl)-2-hydroxy-ethylamino]-propyl}-benzo[1,3]dioxole-2,2-dicarboxylic acid and 4-methylpentanol according to the procedure of Example 30 as a colorless gum (HCl salt); 1H NMR (CDCl3) δ 0.87 (d, J=6.5 Hz, 12H), 1.33 (bs, 3H), 1.10-2.0 (m, 10H), 2.80 (bs, 1H), 3.18 (bs, 2H), 3.48 (bs, 2H), 4.28(m, 4H), 5.60 (bs, 2H), 6.80 (m, 3H), 7.25 (m, 2H), 7.43 (s, 1H), 8.70 (bs, 1H), 10.10 (bs, 1H); IR (KBr): 1765 cm-1 (C=O); MS (CI) m/z 590 (MH+); [α]D25 -24° (c, 1.0, CHCl3). Anal. Calcd. for C32H44ClNO7HCl: C, 61.34; H, 7.08; N, 2.24; Cl, 11.32. Found: C, 60.50; H, 7.36; N, 2.13; Cl, 11.66.

reactant | 5-{2-[2-(3-chloro-phenyl)-2-hydroxy-ethylamino]-propyl}-benzo[1,3]dioxole-2,2-dicarboxylic acid | ClC=1C=C(C=CC1)C(CNC(CC1=CC2=C(OC(O2)(C(=O)O)C(=O)O)C=C1)C)O | C20H20ClNO7
reactant | 4-methylpentanol | CC(CCCO)C | C6H14O
reactant | HCl | Cl | ClH
reactant | KBr | [K+].[Br-]
solvent | CHCl3 | C(Cl)(Cl)Cl | CHCl3
product | 5-{2-[2-(3-Chloro-phenyl)-2-hydroxy-ethylamino]-propyl}-benzo[1,3]dioxole-2,2-dicarboxylic acid bis-(4-methyl-pentyl) ester | CC(CCCOC(=O)C1(OC2=C(O1)C=CC(=C2)CC(C)NCC(O)C2=CC(=CC=C2)Cl)C(=O)OCCCC(C)C)C | C32H44ClNO7
